US06972340B2
allyl 2-(acetylamino)-3-(4-amino-3-ethylphenyl)propanoate
A mixture of N-acetyl-4-amino-3-ethylphenylalanine (2.0 g, 8.0 mmol), Cs2CO3 (2.61 g, 8.0 mmol) and allyl bromide (692 μL, 8.0 mmol) in N,N-dimethylformamide (40 mL) was stirred at room temperature for 3 hours, concentrated under reduce pressure and partitioned between ethyl acetate and water (100 mL, 1:1). The organic phase was washed with brine (1×50 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by on silica gel with ethyl acetate/hexane (5:3) to provide titled compound (1.44 g). MS (ESI(+)) m/e 291 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 8.23 (d, 1H), 6.77-6.70 (m, 2H), 6.50 (d, 1H), 5.90-5.76 (m, 1H), 5.30-5.15 (m, 2H), 4.67 (s, 2H), 4.54-4.50 (m, 2H), 4.38-4.30 (m, 1H), 2.77(dddd, 2H), 2.39 (q, 2H), 1.80 (s, 3H), 1.10 (t, 3H).

reactant | N-acetyl-4-amino-3-ethylphenylalanine | 8.0 mmol, 2.0 g | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N)CC)C(=O)O | C13H18N2O3
reactant | Cs2CO3 | 8.0 mmol, 2.61 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allyl bromide | 8.0 mmol, 692 μL | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | allyl 2-(acetylamino)-3-(4-amino-3-ethylphenyl)propanoate | 1.44 g | C(C)(=O)NC(C(=O)OCC=C)CC1=CC(=C(C=C1)N)CC | C16H22N2O3
